US08134013B2
5-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid(tetrahydrofuran-2-ylmethyl)amide
2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (22 mg, 0.075 mmol) in isopropanol (2.0 mL) was heated with 5-(hydrazinocarbonyl)thiophene-2-carboxylic acid (tetrahydrofuran-2-ylmethyl)amide (20 mg, 0.075 mmol) prepared in Reference Synthetic Example 2 and 3 mg of p-toluenesulfonic acid monohydrate at 105° C. for 17 hours and allowed to cool to room temperature. The precipitated solid was collected by filtration, washed with 1 mL of isopropanol and 1 mL of chloroform and dried to give 26 mg of the desired product (yield 72%).

reactant | 2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.075 mmol, 22 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | 5-(hydrazinocarbonyl)thiophene-2-carboxylic acid (tetrahydrofuran-2-ylmethyl)amide | 0.075 mmol, 20 mg | O1C(CCC1)CNC(=O)C=1SC(=CC1)C(=O)NN | C11H15N3O3S
reactant | p-toluenesulfonic acid monohydrate | 3 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | isopropanol | 2.0 mL | C(C)(C)O | C3H8O
product | 5-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid(tetrahydrofuran-2-ylmethyl)amide | 26 mg, yield 72% | O1C(CCC1)CNC(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC(=C(C=C1)Cl)Cl | C23H21Cl2N3O4S2
